US07273882B2
Step AS2. A mixture of crude 5-aminoindan-1-one oxime (486 mg, 3 mmol) and borane-methyl sulfide complex (1.2 g, 16 mmol) was refluxed in THF for 3 days. The excess reagent was quenched with methanol. After the solvent was removed, the residue was purified by flash chromatography with DCM, then 20% MeOH in DCM, then 50% MeOH in DCM to give 2,3-dihydro-1H-indene-1,5-diamine.

reactant | 5-aminoindan-1-one oxime | 3 mmol, 486 mg | NC=1C=C2CCC(C2=CC1)=NO | C9H10N2O
solvent | THF | C1CCOC1 | C4H8O
product | 2,3-dihydro-1H-indene-1,5-diamine | C1(CCC2=CC(=CC=C12)N)N | C9H12N2
